US07750014B2
To a solution of methyl (5-{4-[(3,4-dichlorobenzoyl)amino]benzyl}imidazo[1,2-c]pyrimidin-8-yl)-acetate (25 mg, 0.05 mmol) in methanol (1 mL) was added 1M NaOH aqueous solution (0.2 mL) at room temperature, and the mixture was stirred for 1 hour. After the removal of methanol under reduced pressure, water was added to the residue. The solution was washed with diethyl ether and neutralized by aqueous hydrochloric acid. The resulting precipitates were collected by filtration and dried under reduced pressure to give (5-{4-[(3,4-dichlorobenzoyl)amino]benzyl}imidazo[1,2-c]pyrimidin-8-yl)acetic acid (17.2 mg, 71%) as slightly yellow solid.

reactant | methyl (5-{4-[(3,4-dichlorobenzoyl)amino]benzyl}imidazo[1,2-c]pyrimidin-8-yl)-acetate | 0.05 mmol, 25 mg | ClC=1C=C(C(=O)NC2=CC=C(CC3=NC=C(C=4N3C=CN4)CC(=O)OC)C=C2)C=CC1Cl | C23H18Cl2N4O3
reactant | NaOH | 1M, 0.2 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | (5-{4-[(3,4-dichlorobenzoyl)amino]benzyl}imidazo[1,2-c]pyrimidin-8-yl)acetic acid | 17.2 mg, 71% | ClC=1C=C(C(=O)NC2=CC=C(CC3=NC=C(C=4N3C=CN4)CC(=O)O)C=C2)C=CC1Cl | C22H16Cl2N4O3
